US06521643B1
A suspension of 4-(4-methylpyridin-2-yl)-2-nitro anisole (347 mg) in ethanol (3.5 ml) and tetrahydrofuran (3.5 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 120 mg) under a hydrogen atmosphere for 1 hour. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 2-methoxy-5-(4-methylpyridin-2-yl)aniline (304 mg).

reactant | 4-(4-methylpyridin-2-yl)-2-nitro anisole | 347 mg | CC1=CC(=NC=C1)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C13H12N2O3
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 120 mg | [Pd] | Pd
product | 2-methoxy-5-(4-methylpyridin-2-yl)aniline | 304 mg | COC1=C(N)C=C(C=C1)C1=NC=CC(=C1)C | C13H14N2O
